### PR TITLE
[Merged by Bors] - chore(test/CategoryTheory/Elementwise): use `MonCat`

### PR DESCRIPTION
**Pull request by grunweg**
This addresses a TODO from the port.
One test only works with an erw and rfl; help from an expert fixing this is welcome. Remove one set_option which did not do anything.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: test/CategoryTheory/Elementwise.lean [hunk 1]
```diff
@@ -82,22 +81,20 @@ example {C : Type u} [Category.{v} C] [ConcreteCategory.{w} C]
...
     g (f x) = h x := by apply foo_apply w
 
-lemma bar''' {M N K : Mon} {f : M ⟶ N} {g : N ⟶ K} {h : M ⟶ K} (w : f ≫ g = h) (x : M) :
+lemma bar''' {M N K : MonCat} {f : M ⟶ N} {g : N ⟶ K} {h : M ⟶ K} (w : f ≫ g = h) (x : M) :
     g (f x) = h x := by apply foo_apply w
 
-example (M N K : Mon) (f : M ⟶ N) (g : N ⟶ K) (h : M ⟶ K) (w : f ≫ g = h) (m : M) :
-    g (f m) = h m := by rw [elementwise_of% w]
+example (M N K : MonCat) (f : M ⟶ N) (g : N ⟶ K) (h : M ⟶ K) (w : f ≫ g = h) (m : M) :
+    g (f m) = h m := by erw [elementwise_of% w]; rfl
```
Comment (jcommelin) [inline test/CategoryTheory/Elementwise.lean:95]:
```suggestion
    g (f m) = h m := by erw [elementwise_of% w]; rfl -- Porting note: was `rw`, switched to `erw; rfl`
```

**Review by jcommelin — COMMENTED** [review]
bors d+

**Comment by grunweg** [comment]
Thanks for the review!
bors merge
